US06177449B1
410 mg (1 mmol) of ethanesulfonic acid (6-iodo-2,2-dimethylchroman-4-yl)methylamide were dissolved in 5 ml of toluene and 130 mg (1 mmol) of thiopheneboronic acid, 40 mg of palladium tetrakis(triphenylphosphine) in 5 ml of ethanol and 1.1 ml of 2-molar cesium carbonate solution were added. The mixture was stirred overnight at 80° C. After removing the solvent, the residue was taken up in methylene chloride and washed with water. After drying and removing the solvent, the residue obtained was purified by column chromatography (eluent heptane/ethyl acetate 1:1), and 260 mg (71 %) of ethanesulfonic acid (2,2-dimethyl-6-thiophen-2-yl-chroman-4-yl)methylamide were obtained as an oil.

reactant | ethanesulfonic acid (6-iodo-2,2-dimethylchroman-4-yl)methylamide | 1 mmol, 410 mg | IC=1C=C2C(CC(OC2=CC1)(C)C)CNS(=O)(=O)CC | C14H20INO3S
reactant | thiopheneboronic acid | 1 mmol, 130 mg | S1C(=CC=C1)B(O)O | C4H5BO2S
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | cesium carbonate | 2-molar, 1.1 ml | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | palladium tetrakis(triphenylphosphine) | 40 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | ethanesulfonic acid (2,2-dimethyl-6-thiophen-2-yl-chroman-4-yl)methylamide | 260 mg, 71 % | CC1(OC2=CC=C(C=C2C(C1)CNS(=O)(=O)CC)C=1SC=CC1)C | C18H23NO3S2
